US04537880
Synthesis of 3,4-di-(3',4'-dichlorobenzyloxy)benzaldehyde
To a solution of 2 g of 3,4-dihydroxybenzaldehyde in 40 ml of acetone, were added 4.40 g of anhydrous potassium carbonate and 6.24 g of 3,4-dichlorobenzyl bromide. The mixture was refluxed for 24 hours. The reaction mixture was then removed of the acetone by distillation under reduced pressure, admixed with 200 ml of water, and the intended product was extracted with 200 ml of chloroform. The chloroform layer was dried over anhydrous sodium sulfate, and stripped of the chloroform by distillation under reduced pressure to precipitate white crystals. The raw crystals were recrystallized from ethyl alcohol to give 4.99 g of colorless crystals having a melting point of 181°-183° C. The IR absorption spectrum of the compound, as measured in KBr-tablet, showed the following absorption maxima (in wave number, cm-1) 658, 693, 710, 760, 795, 805, 830, 875, 1030, 1135, 1168, 1200, 1245, 1280, 1370, 1403, 1437, 1460, 1470, 1510, 1585, 1600, 1690, 2730, 2830, 2870, 2910, and 3070.

reactant | 3,4-dihydroxybenzaldehyde | 2 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | potassium carbonate | 4.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dichlorobenzyl bromide | 6.24 g | ClC=1C=C(CBr)C=CC1Cl | C7H5BrCl2
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 3,4-di-(3',4'-dichlorobenzyloxy)benzaldehyde | 4.99 g | ClC=1C=C(COC=2C=C(C=O)C=CC2OCC2=CC(=C(C=C2)Cl)Cl)C=CC1Cl | C21H14Cl4O3
